US04732901
(E)-3-[4-(1-Octynyl)-3-thienyl]prop-2-enoic acid
Reaction of 4-(octynyl)-3-thiophenecarboxaldehyde (550 mg, 2.5 mmole) with malonic acid by the method described in Example 2 yielded the title compound 272 mg (41.5%) mp °C.; νmax (mull) 2600(vb), 1790, 1615, 940, 865, 835, 760; δ(CDCl3) 0.90(3H, distorted t), 1.40(8H, m), 2.37(2H, t, J=6 Hz), 6.23(1H, d, J=16 Hz), 7.22(1H, bs), 7.37(1H, bs), 7.77(1H, d, J=16 Hz), 10.3(1H, bs).

reactant | 4-(octynyl)-3-thiophenecarboxaldehyde | 2.5 mmole, 550 mg | C(#CCCCCCC)C=1C(=CSC1)C=O | C13H16OS
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
product | (E)-3-[4-(1-Octynyl)-3-thienyl]prop-2-enoic acid | 272 mg, 41.5% | C(#CCCCCCC)C=1C(=CSC1)/C=C/C(=O)O | C15H18O2S
